US04939307
In about the same way as described under Example 2, an experiment was carried out with difference being that 10 ml methyl-undecenoate was included in the autoclave instead of 10 ml methylpropionate, while after 5 min hydrogen was added until a pressure increase of 30 bar was reached. The autoclave was kept at 80° C. for 5 hours giving a yield of 2.4 g methanol and about 1 g 1-undecenol.

reactant | methyl-undecenoate | 10 ml | COC(C=CCCCCCCCC)=O | C12H22O2
reactant | methylpropionate | 10 ml | COC(CC)=O | C4H8O2
reactant | hydrogen | [H][H] | H2
solvent | methanol | yield of 2.4 g | CO | CH4O
product | 1-undecenol | about 1 g | C(=CCCCCCCCCC)O | C11H22O
